US04945090
(b) 5-phenoxy-3-cyano-4-methoxymethyl-beta-carboline
1.1 g of Br2 in 10 ml of methylene chloride is put in drop by drop into a stirred solution of 1.8 g (15 mmol) of triphenylphosphine in 50 ml of methylene chloride at 0° C. Then, 2 g of 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxamide and 1.9 ml of triethylamine are added. The reaction mixture is stirred for 1 hour at 0° C. and then vigorously stirred with 25 ml of methylene chloride and 25 ml of water for 5 minutes. After removal of the aqueous phase from the organic phase by concentration, 0.8 g of the desired product is obtained.

reactant | Br2 | 1.1 g | BrBr | Br2
reactant | triphenylphosphine | 15 mmol, 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxamide | 2 g | O(C1=CC=CC=C1)C1=C2C=3C(=C(N=CC3NC2=CC=C1)C(=O)N)COC | C20H17N3O3
reactant | triethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | 5-phenoxy-3-cyano-4-methoxymethyl-beta-carboline | 0.8 g | O(C1=CC=CC=C1)C1=C2C=3C(=C(N=CC3NC2=CC=C1)C#N)COC | C20H15N3O2
